US07977344B2
2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt (0.5 g) was heated to 60° C. for 1 hour with anhydrous potassium carbonate (0.79 g) in dry DMF (10 mL) and allowed to cool to room temperature before adding 4-(bromomethyl)tetrahydro-2H-pyran (0.26 g). The reaction was stirred at room temperature for 39 hours and heated for 2 hours at 50° C. The reaction was poured into water and extracted into ethyl acetate (twice). The combined ethyl acetate extracts were dried through a hydrophobic frit, stripped to dryness and purified first by silica chromatography (ISCO) (40 g) eluting with 0-100% ethyl acetate:cyclohexane then 0-20% methanol:ethyl acetate and then by reverse phase chromatography (43 g, C-18) (ISCO) eluting 20-60% acetonitrile (0.05% formic acid): water (0.1% formic acid) to give the title compound as a white solid.

reactant | 2-Butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt | 0.5 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 0.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | 0.26 g | BrCC1CCOCC1 | C6H11BrO
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C16H25N5O3
